US05278175
4-Ethyl-3-fluoropyridine
To a stirred solution of LDA (200 mmol) in dry THF (400 ml) (prepared by a similar method to that used in Example 1) at -70° C. and under a nitrogen atmosphere was added dropwise 3-fluoropyridine (20 g, 200 mmol). After 30 minutes at this temperature ethyl iodide (60 g, 370 mmol) was added dropwise to the reaction and the mixture was allowed to warm slowly to between -10° and -5° C. whereupon an exotherm occurred and the temperature rose to 15° to 20° C. The mixture was stirred for a further 30 minutes after which time the reaction was quenched by the addition of water (50 ml) and the organic phase separated. The aqueous phase was extracted with ether (3×50 ml) and the combined organic layers were dried over magnesium sulphate and concentrated under reduced pressure. The resulting liquid was distilled at atmospheric pressure to yield the title compound (13 g), b.p. 154°-158° C., which was characterised by 1H-NMR spectroscopy.

reactant | LDA | 200 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 3-fluoropyridine | 200 mmol, 20 g | FC=1C=NC=CC1 | C5H4FN
reactant | ethyl iodide | 370 mmol, 60 g | C(C)I | C2H5I
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 4-Ethyl-3-fluoropyridine | 13 g | C(C)C1=C(C=NC=C1)F | C7H8FN
